US06750348B1
To a stirred solution of 8-hydroxy-5,6,7,8-tetrahydroquinoline (71.6 g, 0.480 mol) in CH2Cl2 (500 mL, 1.0 M) at room temperature was added triethylamine (126 mL, 0.904 mol) followed by methanesulfonyl chloride (55 mL, 0.711 mol). The resulting mixture was heated to 40° C. overnight then cooled to room temperature. The mixture was poured into water (350 mL), diluted with CH2Cl2 (350 mL), and the phases were separated. The organic phase was washed with brine (2×250 mL), dried (Na2SO4), and concentrated. The resultant oil was dissolved in DMF (570 mL), treated with sodium azide (63.1 g, 0.971 mol), and heated at 70° C. overnight. The mixture was cooled to room temperature, then evaporated and the residual slurry was poured into brine (500 mL) and extracted with ether (4×500 mL). The combined organic extracts were washed with brine (2×100 mL), dried (Na2SO4), and concentrated. The crude material was filtered through a short plug of silica gel (CH2Cl2) to provide 41.0 g (46% from 5,6,7,8-tetrahydroquinoline) of 8-azido-5,6,7,8-tetrahydroquinoline as a red oil.

reactant | 8-hydroxy-5,6,7,8-tetrahydroquinoline | 0.480 mol, 71.6 g | OC1CCCC=2C=CC=NC12 | C9H11NO
reactant | triethylamine | 0.904 mol, 126 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.711 mol, 55 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 0.971 mol, 63.1 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 1.0 M, 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
solvent | water | 350 mL | O | H2O
product | 8-azido-5,6,7,8-tetrahydroquinoline | 41.0 g, 46% | N(=[N+]=[N-])C1CCCC=2C=CC=NC12 | C9H10N4
